US07381728B2
4-Bromo-2-(methyloxy)benzenesulfonyl chloride (D30)
To chlorosulfonic acid (20 ml) at 0° C. was added dropwise 3-bromoanisole (18.7 g, 0.1 mol) at such a rate that the internal temperature remained below 5° C. The mixture was stirred at 0° C. for 1 hour and added dropwise to crushed ice. The mixture was extracted with ethyl acetate and the combined organic layers were washed with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was purified by chromatography on silica gel (1:25 ethyl acetate:pentane) to afford the title compound; 4-bromo-2-(methyloxy)benzenesulfonyl chloride (D30) 1H-NMR (CDCl3) δ 7.81 (1H, d, J 8 Hz), 7.28 (1H, d, J 2 Hz), 7.26 (1H, dd, J 8, 2 Hz), 4.07 (3H, s) and an isomer; 2-bromo-4-(methyloxy)benzenesulfonyl chloride 1H-NMR (CDCl3) δ 8.12 (1H, d), 7.33 (1H, d), 6.97 (1H, dd), 3.92 (3H, s).

reactant | 3-bromoanisole | 0.1 mol, 18.7 g | BrC=1C=C(C=CC1)OC | C7H7BrO
reactant | chlorosulfonic acid | 20 ml | ClS(=O)(=O)O | ClHO3S
product | 4-Bromo-2-(methyloxy)benzenesulfonyl chloride | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)OC | C7H6BrClO3S
